US05300479
Preparation of 6-(4-Isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,2-dimethyl-5-benzimidazolecarboxylic acid dihydrochloride
A mixture of 6-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]-1,2-dimethyl-5-benzimidazolecarboxylic acid (0.330 g, 0.910 mmol) and 2M sodium hydroxide (3.0 mL, 6.0 mmol) is stirred for 2.5 hours at reflux temperature, cooled, acidified to pH 3 with hydrochloric acid and filtered. The filter cake is recrystallized from ethanol to afford the title product as a white solid (0.120 g, 31.5%), mp 256°-258° C.

reactant | 6-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]-1,2-dimethyl-5-benzimidazolecarboxylic acid | 0.910 mmol, 0.330 g | C(N)(=O)C(C(C)C)(C)NC(=O)C=1C(=CC2=C(N(C(=N2)C)C)C1)C(=O)O | C17H22N4O4
reactant | sodium hydroxide | 6.0 mmol, 2M, 3.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 6-(4-Isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-1,2-dimethyl-5-benzimidazolecarboxylic acid dihydrochloride | 0.120 g, 31.5% | Cl.Cl.C(C)(C)C1(N=C(NC1=O)C=1C(=CC2=C(N(C(=N2)C)C)C1)C(=O)O)C | InChI=1S/C17H20N4O3.2ClH/c1-8(2)17(4)16(24)19-14(20-17)10-7-13-12(6-11(10)15(22)23)18-9(3)21(13)5;;/h6-8H,1-5H3,(H,22,23)(H,19,20,24);2*1H
